US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-4-(2-oxo-1,2-dihydropyrimidin-5-yl)naphthalen-2-yl)acetic acid (146):
A suspension methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (10.5 mg, 22.1 μmol), [1H]pyrimidin-2-one-5-yl-boronic acid (25 mg, 0.11 mmol), PdCl2(dppf) (3.2 mg, 4.4 μmol), K2CO3 (46 mg, 0.33 mmol), PhMe (500 μL), EtOH (absolute, 250 μL), and H2O (250 μL) was heated to 100° C. for 30 min, but conversion was poor. The reaction was treated with glacial AcOH (60 μL, 1.05 mmol) and KF (40 mg, 0.688 mmol). More PdCl2(dppf) (3.2 mg, 4.4 μmol) and [1H]pyrimidin-2-one-5-yl-boronic acid (7 mg, 30 μmol) were added and the reaction was heated to 100° C. After 2 h, the reaction was added to H2O (15 mL) and glacial AcOH (0.2 mL). The system was extracted with EtOAc (3×10 mL). Combined organic phases were dried (Na2SO4), filtered, and concentrated. The crude material was treated with THF (750 μL), EtOH (absolute, 750 μL), H2O (500 μL), and LiOH monohydrate (50 mg 1.2 mmol). The suspension was heated to 100° C. for 30 min. The reaction was cooled to 23° C., filtered through a 0.45 micron filter, and directly purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA). The product-containing fractions were combined and lyophilized, giving the title compound (parent form) (3.8 mg, 36% over 2 steps). 1H-NMR: (400 MHz, DMSO-d6): δ 12.8 (s, broad, 1H), 8.29 (app. s, broad, 1H), 7.75-7.68 (m, 2H), 7.58-7.44 (m, 4H), 7.43-7.38 (m, 2H), 7.25 (d, J=8.2 Hz, 1H), 5.12 (s, 1H), 2.38 (s, 3H), 0.96 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C27H26ClN2O4: 477.2; Found: 477.2.

reactant | methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 22.1 μmol, 10.5 mg | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)OC)OC(C)(C)C)C | C24H24BrClO3
reactant | [1H]pyrimidin-2-one-5-yl-boronic acid | 0.11 mmol, 25 mg | N1C(N=CC(=C1)B(O)O)=O | C4H5BN2O3
reactant | K2CO3 | 0.33 mmol, 46 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | KF | 0.688 mmol, 40 mg | [F-].[K+]
reactant | [1H]pyrimidin-2-one-5-yl-boronic acid | 30 μmol, 7 mg | N1C(N=CC(=C1)B(O)O)=O | C4H5BN2O3
catalyst | PdCl2(dppf) | 4.4 μmol, 3.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 4.4 μmol, 3.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 500 μL | O | H2O
solvent | EtOH | 750 μL | CCO | C2H6O
solvent | THF | 750 μL | C1CCOC1 | C4H8O
solvent | AcOH | 0.2 mL | CC(=O)O | C2H4O2
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 250 μL | O | H2O
solvent | EtOH | 250 μL | CCO | C2H6O
solvent | PhMe | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | AcOH | 1.05 mmol, 60 μL | CC(=O)O | C2H4O2
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-4-(2-oxo-1,2-dihydropyrimidin-5-yl)naphthalen-2-yl)acetic acid | 3.8 mg, 36% | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC=C2C(=C1C)C=1C=NC(NC1)=O)C1=CC=C(C=C1)Cl | C27H25ClN2O4
